US07244722B2
Step 1: 4-(3-Chloro-quinoxalin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester.
Di-tert-butyl dicarbonate (5.8 g, 0.027 mol) was added to a mixture of 2-chloro-3-piperazin-1-yl-quinoxalin* (6.6 g, 0.027 mol), triethylamine (5.5 g, 0.054 mol) and dichloromethane (100 g) at 0° C. The mixture was stirred at room temperature overnight. Toluene (300 g) and water (100 g) were added to the reaction mixture and the layers were separated. The organic layer was concentrated in vacuo to furnish 9.4 g (100%) of the title compound. 1H NMR analysis supports the stated structure. *Reported in WO 00/76984, Example 162, Step 1.

reactant | Di-tert-butyl dicarbonate | 0.027 mol, 5.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-chloro-3-piperazin-1-yl-quinoxalin | ClC1=NC2=CC=CC=C2N=C1N1CCNCC1 | C12H13ClN4
reactant | triethylamine | 0.054 mol, 5.5 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 100 g | ClCCl | CH2Cl2
solvent | water | 100 g | O | H2O
solvent | Toluene | 300 g | C1(=CC=CC=C1)C | C7H8
product | 4-(3-Chloro-quinoxalin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 9.4 g, 100% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2N=C1Cl | C17H21ClN4O2
